US04093812
Heat 0.42 g of 4-hydroxymethyl-3-(5-nitro-2-furyl)-1-phenylpyrazole with 1.3 g of activated manganese dioxide and 6 ml of chloroform for 4 hours at boiling with removal of water. Filter while warm and extract the filter residue three times by boiling with chloroform. Concentrate the produced organic solutions to obtain 3-(5-nitro-2-furyl)-1-phenylpyrazole-4-carboxaldehyde [m.p. 208° to 209° C].

reactant | 4-hydroxymethyl-3-(5-nitro-2-furyl)-1-phenylpyrazole | 0.42 g | OCC=1C(=NN(C1)C1=CC=CC=C1)C=1OC(=CC1)[N+](=O)[O-] | C14H11N3O4
catalyst | manganese dioxide | 1.3 g | [O-2].[O-2].[Mn+4]
solvent | chloroform | 6 ml | C(Cl)(Cl)Cl | CHCl3
product | 3-(5-nitro-2-furyl)-1-phenylpyrazole-4-carboxaldehyde | [N+](=O)([O-])C1=CC=C(O1)C1=NN(C=C1C=O)C1=CC=CC=C1 | C14H9N3O4
